Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Opiods / albuterol / Atrovent / tramadol / fentanyl / ranolazine
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
coronary angiogram ___

attach
 
Pertinent Results:
ADMISSION LABS:
================
___ 09:40PM BLOOD WBC-4.8 RBC-4.13 Hgb-13.1 Hct-38.4 MCV-93 
MCH-31.7 MCHC-34.1 RDW-12.8 RDWSD-44.0 Plt ___
___ 09:40PM BLOOD Neuts-62.7 ___ Monos-12.2 Eos-2.7 
Baso-0.6 Im ___ AbsNeut-2.99 AbsLymp-1.02* AbsMono-0.58 
AbsEos-0.13 AbsBaso-0.03
___ 09:40PM BLOOD ___ PTT-24.5* ___
___ 09:40PM BLOOD Glucose-137* UreaN-10 Creat-0.7 Na-133* 
K->10.0* Cl-98 HCO3-15* AnGap-20*
___ 07:46AM BLOOD Glucose-94 UreaN-10 Creat-0.7 Na-136 
K-4.4 Cl-103 HCO3-25 AnGap-8*
___ 09:40PM BLOOD proBNP-361
___ 09:40PM BLOOD cTropnT-<0.01
___ 07:46AM BLOOD CK-MB-3 cTropnT-<0.01
___ 07:46AM BLOOD Calcium-9.1 Phos-4.0 Mg-2.4 Cholest-136
___ 05:27AM BLOOD Calcium-9.3 Phos-3.4 Mg-2.2

INTERVAL LABS:
===============
___ 05:27AM BLOOD Glucose-116* UreaN-9 Creat-0.7 Na-134* 
K-4.3 Cl-100 HCO3-25 AnGap-9*
___ 06:03AM BLOOD Glucose-122* UreaN-10 Creat-0.7 Na-130* 
K-4.0 Cl-94* HCO3-24 AnGap-12
___ 06:03AM BLOOD Calcium-9.2 Phos-3.8 Mg-1.9
___ 05:48AM BLOOD Calcium-9.0 Phos-3.2 Mg-2.3
___ 07:46AM BLOOD %HbA1c-5.9 eAG-123
___ 07:46AM BLOOD Triglyc-84 HDL-53 CHOL/HD-2.6 LDLcalc-66
___ 07:46AM BLOOD TSH-1.6

DISCHARGE LABS:
================
___ 07:46AM BLOOD WBC-4.7 RBC-4.06 Hgb-12.9 Hct-38.7 MCV-95 
MCH-31.8 MCHC-33.3 RDW-12.9 RDWSD-45.3 Plt ___
___ 05:48AM BLOOD Glucose-116* UreaN-12 Creat-0.7 Na-130* 
K-4.2 Cl-92* HCO3-26 AnGap-12
___ 05:48AM BLOOD Calcium-9.0 Phos-3.2 Mg-2.3

IMAGING:
==========
___ CXR: IMPRESSION:  
  
No acute intrathoracic process. 

___ TTE:
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/
global biventricular systolic function. Small circumferential 
pericardial effusion without
echocardiographic evidence for tamponade physiology.

___ Coronary angiogram:
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a medium 
caliber vessel. This vessel bifurcates into
the Left Anterior Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a medium caliber vessel.
There is a 30% stenosis in the proximal segment.
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel. There is a 30% stenosis in
the proximal segment.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel.
The ___ Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a very 
small caliber vessel. There is a 100%
stenosis in the ostium. Collaterals from the mid segment of the 
LAD connect to the mid segment.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a medium caliber vessel. There is a
30% in-stent restenosis in the ostium. There is a stent in the 
proximal, mid, and distal segments.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.
Sedation
The procedure was not feasible without moderate sedation. Risks, 
benefits and alternatives were
discussed and informed consent obtained. With rhythm, blood 
pressure and oxygen saturation monitors,
constant nursing observation, and direct attending supervision, 
the patient received an appropriate level
of sedation (see medication list ). The attending was at the 
bedside continuously for 20 min during
sedation. The patient was subsequently observed with serial 
examinations until the return of pre-sedation
mental status.

Complications
There were no clinically significant complications.
Findings

• Branch vessel coronary artery disease.
• Mild disease. Known small OM occlusion is chronic and seen on 
prior angio.

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
=====================
___ yo F with hx of CAD s/p cath ___ c/b LCx perforation, RCA 
CTO PCI in ___, presenting with bothersome chest discomfort & 
lightheadedness for past 2 months (both at rest and with 
exercise) reminiscent of her prior angina, sent in by her 
cardiologist in this context when she was found to have 
hypertensive urgency in clinic. Hypertension improved with nitro 
drip & was transitioned to PO antihypertensives, EKG & trops 
negative, negative pMIBI in ___. Due to symptomatic angina, 
she underwent coronary angiogram on ___ that showed branch 
vessel coronary artery disease and mild disease with known small 
OM chronic occlusion. No intervention was made. Her medications 
were optimized with hypertension regimen including isosorbide 
mononitrate XR 60 mg BID, carvedilol 37.5 mg BID, quinapril 40 
mg qAM, verapamil 120 mg qPM, doxazosin 6 mg qPM. She was 
monitored closely and discharged in stable condition.  

TRANSITIONAL ISSUES:
==================
HTN: 
[] Consider renal artery ultrasound with doppler for 
consideration of revascularization if this HTN continues to be 
an issue
[] consider increasing quinapril to 60 mg daily for hypertensive 
control

[] Consider addition of acupuncture for coronary angina given 
patient on maximum anti-anginal therapy (pt with allergy to 
ranolazine)

[] Pt was placed on chlorthalidone for about 3 days in the 
setting of hypertensive urgency but developed hyponatremia. 
Would avoid this medication in future treatment. 
*** Please repeat BMP at post-discharge follow up to ensure Na 
normalizes***

Discharge Cr: 0.7
Discharge Na: 130
Discharge weight: 80.1 kg 

#CODE: Short term trial full code (confirmed) 
#CONTACT: ___ ___ 

ACUTE ISSUES:
=============
#Unstable Angina 
#Hypertensive urgency
#CAD s/p cath ___ c/b LCx perforation, RCA CTO PCI in ___
The patient reported significant improvement in her BP at the 
OSH with a dose of hydralazine and subsequently with lower BPs 
on nitro gtt. History concerning for unstable angina given 
substernal chest pressure at rest associated with left sided 
chest throbbing/pressure that she states is similar to her last 
MI. Her EKG is unchanged from baseline and her troponins x2 are 
negative, which is reassuring. Exam otherwise not remarkable. 
Patient treated as though hypertensive emergency given chest 
pressure, although no evidence of end organ damage. She had a 
negative pMIBI at ___ in ___ when she was having 
similar sxs to now, although could have been falsely reassuring 
b/c of her collateral anatomy. The patient's hypertension was 
treated with nitro gtt and then transitioned an oral regimen 
that included isosorbide mononitrate XR 60 mg BID, carvedilol 
37.5 mg BID, quinapril 40 mg qAM, verapamil 120 mg qPM, 
doxazosin 6 mg qPM. On ___, she underwent coronary angiogram 
that showed showed branch vessel coronary artery disease and 
mild disease with known small OM chronic occlusion. No 
intervention was made. 

# Hyponatremia
Pt with new hyponatremia likely from chlorthalidone that was 
started this admission. Chlorthalidone was discontinued ___ 
and Na remained stable upon discharge. She was advised to have 
repeat bloodwork 1 week post discharge to ensure Na normalizes.  
 

CHRONIC ISSUES:
===============
#DM (diet controlled)
- Hgb A1c 6.0 per patient last month 
- Continue carb controlled diet

# hx presumed TIA: ___ years ago in the setting of a heated
argument, developed HTN, left arm 'floppiness' resolved after a 
few hours, no re-occurrence 

# IBS
- Continue home Metamucil
- Hold probiotics

# HLD
- Atorvastatin 40 mg daily 

# GERD
- Continue pantoprazole 20mg 

# R shoulder pain and lower back pain
- lidocaine cream/patch PRN 
- Tylenol PRN

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Citalopram 10 mg PO DAILY 
4. Isosorbide Mononitrate (Extended Release) 60 mg PO BID 
5. Metoprolol Succinate XL 50 mg PO QHS 
6. Nitroglycerin SL 0.4 mg SL PRN chest pain 
7. Pantoprazole 20 mg PO Q24H 
8. TraZODone 50 mg PO QHS:PRN insmonia 
9. Vitamin D 1000 UNIT PO DAILY 
10. Quinapril 40 mg PO QAM 
11. Probiotic (S.boulardii) (Saccharomyces boulardii) 250 mg 
oral DAILY 
12. Systane (PF) (peg 400-propylene glycol (PF)) 0.4-0.3 % 
ophthalmic (eye) TID:PRN dryness 
13. Clopidogrel 75 mg PO DAILY 
14. Furosemide 20 mg PO INFREQUENTLY PRN weight gain/leg 
swelling 
15. Psyllium Powder 1 PKT PO DAILY 
16. Verapamil SR 120 mg PO Q24H 
17. Doxazosin 6 mg PO HS 

 
Discharge Medications:
1.  CARVedilol 37.5 mg PO BID  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Citalopram 10 mg PO DAILY  
5.  Clopidogrel 75 mg PO DAILY  
6.  Doxazosin 6 mg PO HS  
7.  Isosorbide Mononitrate (Extended Release) 60 mg PO BID  
8.  Nitroglycerin SL 0.4 mg SL PRN chest pain  
9.  Pantoprazole 20 mg PO Q24H  
10.  Probiotic (S.boulardii) (Saccharomyces boulardii) 250 mg 
oral DAILY  
11.  Psyllium Powder 1 PKT PO DAILY  
12.  Quinapril 40 mg PO QAM  
13.  Systane (PF) (peg 400-propylene glycol (PF)) 0.4-0.3 % 
ophthalmic (eye) TID:PRN dryness  
14.  TraZODone 50 mg PO QHS:PRN insmonia  
15.  Verapamil SR 120 mg PO Q24H  
16.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
=================
Unstable angina
Hypertensive urgency

SECONDARY DIAGNOSIS:
===================
Coronary artery disease s/p cath ___ c/b LCx perforation, RCA 
CTO PCI in ___
Diabetes mellitus type 2
Hx of transient ischemic attack
Irritable bowel syndrome
Hyperlipidemia
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had high blood pressure and 
chest pain 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You were given an IV medication and then oral medications to 
help lower your blood pressure
- A new blood pressure medication: carvedilol, was added for 
your high blood pressure
- You had a coronary angiogram on ___ that showed mild 
coronary artery disease and no stents were placed
- You were monitored closley 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 
- If you are experiencing new or concerning chest pain that is 
coming and going you should call the heartline at ___. 
If you are experiencing persistent chest pain that isn't getting 
better with rest; you should call ___.  
- You should also call the heartline if you develop swelling in 
your legs, abdominal distention, or shortness of breath at 
night.  
- You should attend the appointments listed below.  
- Weigh yourself every morning, call your doctor if your weight 
goes up more than 3 lbs.  
- Your discharge weight: 176 pounds. You should use this as your 
baseline after you leave the hospital.  

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Team
 
Followup Instructions:
___